US07981903B2
To a stirred solution of 6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone (75 g of, 0.34 mol, 1 equiv) in THF (1L) was added BH3.DMS (10 M, 150 mL, 1.5 mol, 4.4equiv) dropwise at 25° C. After the addition, the mixture was stirred for 6 h at 60° C. The reaction was cooled and quenched with excess MeOH, concentration under reduced pressure and purified via chromatography on SiO2 t afford 6-(methyloxy)-7-nitro1,2,3,4-tetrahydroquinoline (51.5 g, 73% yield). 1H NMR (400 MHz, DMSO) δ 1.73-1.80 (m, 2 H), 2.71 (t, 2 H, J=6.4 Hz), 3.13-3.16 (m, 2 H), 3.75 (s, 3H), 5.83(br, 1 H), 6.88(s, 1 H), 6.95(s, 1 H).

reactant | 6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone | 0.34 mol, 75 g, 1 equiv | COC=1C=C2CCC(NC2=CC1[N+](=O)[O-])=O | C10H10N2O4
reactant | DMS | 1.5 mol, 10 M, 150 mL, 4.4equiv | CSC | C2H6S
solvent | THF | C1CCOC1 | C4H8O
product | 6-(methyloxy)-7-nitro1,2,3,4-tetrahydroquinoline | 51.5 g, 73% yield | COC=1C=C2CCCNC2=CC1[N+](=O)[O-] | C10H12N2O3
